US05484926
A. 5-Cyanoisoquinoline
To a cold (0° C.) solution of 10.0 g (61.4 mmol) of 5-aminoisoquinoline in 288 mL of 1.5N hydrochloric acid, was added 15 mL of 5.2M sodium nitrite in water. After approximately 5 minutes, a cool saturated solution of sodium bicarbonate was added to the reaction mixture until the reaction solution tested negative using the iodide and starch paper test. The resultant solution was poured into a cold (0°-5° C.) biphasic mixture containing 300 ml of toluene and 150 mL of an aqueous solution containing 8.4 g (177 mmol) of sodium cyanide and 7.6 g (85 mmol) of copper cyanide. The resultant reaction mixture was warmed to room temperature, reacted for approximately 1 hour, and then diluted with a mixture of ethyl acetate and water. The resulting layers were separated, and the organic phase was dried over sodium sulfate, filtered, and then reduced to dryness under reduced pressure to provide 5.9 g of a yellow solid.

reactant | 5-aminoisoquinoline | 61.4 mmol, 10.0 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | sodium nitrite | 5.2M, 15 mL | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | iodide | [I-]
reactant | sodium cyanide | 177 mmol, 8.4 g | [C-]#N.[Na+]
reactant | copper cyanide | 85 mmol, 7.6 g | [Cu](C#N)C#N
solvent | hydrochloric acid | 1.5N, 288 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Cyanoisoquinoline | 5.9 g, Yield: 56% | C(#N)C1=C2C=CN=CC2=CC=C1 | C10H6N2
